US04797401
(A) 1-Acetyl-4-(3-methyl-4-nitrophenyl)piperazine
1-Acetylpiperazine (6.23 g), 5-fluoro-2-nitrotoluene (7.51 g) and sodium carbonate (5.12 g) in dimethylformamide (40 ml) were stirred at 100° overnight, evaporated, and the residue partitioned between ethyl acetate and water. The organic layer was dried (sodium sulphate), evaporated, and the residue chromatographed over Merck (Trade Mark) t.l.c. grade silica, developing and eluting with 5% methanol in dichloromethane, yield 10.92 g of the title compound. A small portion was recrystallized from methanol/ethyl acetate, m.p. 133°-7°.

reactant | 1-Acetylpiperazine | 6.23 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 5-fluoro-2-nitrotoluene | 7.51 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | sodium carbonate | 5.12 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Acetyl-4-(3-methyl-4-nitrophenyl)piperazine | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C13H17N3O3
